US07622502B2
Step 5: (5R)-5,6-bis(nitrooxy)hexyl (2Z)-4-(acetyloxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate
A solution of 3 g of (2Z)-4-(acetyloxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid, 1.7 g of (2R)-6-hydroxyhexane-1,2-diyl dinitrate, 10 mmol of DMAP and 10 mmol of EDCI was stirred in 40 mL of dichloromethane at rt for 2 h. Then, acetic anhydride (0.5 mL) was added and the mixture was filtered through a pad of silica gel and washed with EtOAc, evaporated, purified by flash chromatography (15-50% EtOAc/hexane) to afford 2.8 g of the desired compound as a white solid. 1H NMR (acetone-d6, 500 MHz): δ 7.79 (d, 2H), 7.45 (d, 2H), 7.21-7.16 (m, 1H), 7.13-7.08 (m, 2H), 5.52-5.44 (m, 1H), 5.21 (s, 1H), 4.98 (dd, 1H), 4.72 (dd, 1H), 4.29 (t, 2H), 3.09 (s, 3H), 1.92 (s, 3H), 1.89-1.74 (m, 4H), 1.60-1.48 (m 2H).

reactant | (2Z)-4-(acetyloxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid | 3 g | C(C)(=O)OC\C(=C(/C(=O)O)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C19H18O6S
reactant | (2R)-6-hydroxyhexane-1,2-diyl dinitrate | 1.7 g | [N+](=O)(OC[C@@H](CCCCO)O[N+](=O)[O-])[O-] | C6H12N2O7
reactant | EDCI | 10 mmol | CCN=C=NCCCN(C)C | C8H17N3
reactant | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 10 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (5R)-5,6-bis(nitrooxy)hexyl (2Z)-4-(acetyloxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate | 2.8 g | C(C)(=O)OC\C(=C(/C(=O)OCCCC[C@H](CO[N+](=O)[O-])O[N+](=O)[O-])\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C25H28N2O12S
